US05202407
A. Preparation of ethyltri-p-tolyl phosphonium bromide catalyst
Into a 50 milliliter glass reactor equipped with a thermometer connected to a temperature controller, a heating mantle, a condenser and a magnetic stirring bar, is charged 15 gms (0.0473 mole) of tri-p-tolyl phosphine and 40 gms of xylene. The slurry is heated to 30° C., then 7 gms (0.0642 mole) of ethyl bromide is added. This reaction mass is heated to 45° C. in 1.17 hours and maintained for 21.4 hours, then cooled to 65° C. and maintained for 2.47 hours, then heated to 90° C., then maintained for 2.42 hours at that temperature, then cooled to 25° C. Then 1.5 gm (0.0138 mole) of ethyl bromide is added and maintained at 25C for 0.75 hour, then heated to 45° C. and maintained at that temperature for 16.58 hours, then heated to 70° C. and maintained at that temperature for 1.5, then cooled to 48° C. and the resulting phosphonium salt collected by filtration. After vacuum drying, there is obtained 12.8 gms of catalyst which has a melting point of 213°-220° C. and a chemical shift of 24.6 ppm (phosphoric acid reference).

reactant | tri-p-tolyl phosphine | 0.0473 mole, 15 gms | C1(=CC=C(C=C1)P(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C | C21H21P
reactant | ethyl bromide | 0.0642 mole, 7 gms | C(C)Br | C2H5Br
reactant | ethyl bromide | 0.0138 mole, 1.5 gm | C(C)Br | C2H5Br
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | xylene | 40 gms | C=1(C(=CC=CC1)C)C | C8H10
product | ethyltri-p-tolyl phosphonium bromide | [Br-].C(C)[P+](C1=CC=C(C=C1)C)(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | InChI=1S/C23H26P.BrH/c1-5-24(21-12-6-18(2)7-13-21,22-14-8-19(3)9-15-22)23-16-10-20(4)11-17-23;/h6-17H,5H2,1-4H3;1H/q+1;/p-1
